US04269788
8 g. of α-methyl-1-phenyl-2,5-cyclohexadien-1-ethanol are dissolved in 50 ml. of pyridine and 6.4 g. of mesyl chloride are added dropwise at 0°-5° C. After stirring at room temperature for 2 hours, the mixture is worked-up as follows: The mixture is treated with ice-water and extracted with ether. The ether phase is washed with 3 N aqueous hydrochloric acid, then washed neutral, dried and concentrated. The crude product obtained is chromatographed on 100 g. of silica gel with ether/petroleum ether (1:1). There is obtained an oily product which crystallizes in the cold. After crystallization from methylene chloride/hexane, there is obtained methanesulfonic acid 1-methyl-2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester having a melting point of 51°-53° C.

reactant | α-methyl-1-phenyl-2,5-cyclohexadien-1-ethanol | CC(CC1(C=CCC=C1)C1=CC=CC=C1)O | C15H18O
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methanesulfonic acid 1-methyl-2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester | CC(CC1(C=CCC=C1)C1=CC=CC=C1)OS(=O)(=O)C | C16H20O3S
